US08207381B2
Synthesis of 1-bromo-1,1-difluoro-non-2-yn-4-ol
To a solution of (3-bromo-3,3-difluoro-prop-1-ynyl)-triisopropyl-silane (156 mg, 0.5 mmol) and hexanal (60 mg, 0.6 mmol) in THF (5 mL), TBAF (1M, 0.75 mL) was added dropwise at −90° C. After the addition was completed, the reaction mixture was stirred for 0.5 h and quenched with saturated aq. NH4Cl. The mixture was extracted with ether (20 mL×3) and washed with water (20 mL×2). After drying over Na2SO4 the solvent was removed and the product was purified by silica gel chromatography (AcOEt:hexane=1:20) to afford the title compound (82 mg, 65%) as colorless liquid. Colorless liquid, yield: 78%. IR (neat): 3320, 2934, 2261, 1223, 1096 cm−1 . 1H NMR (500 MHz, CDCl3) δ 4.49-4.52 (m, 1H), 2.14 (bs, 1H), 1.74-1.77 (m, 2H), 1.45-1.47 (m, 2H), 1.33-1.38 (m, 4H), 0.91 (t, J=6.5 Hz, 3H); 19F NMR (470 MHz, CDCl3) δ −32.9 (s, 2F); 13C NMR (125 MHz, CDCl3) δ 101.5 (t, J=288 Hz), 91.5 (t, J=5.8 Hz), 77.3 (t, J=38 Hz), 62.2, 36.8, 31.4, 24.6, 22.6, 14.1; GCMS: 157, 137, 115, 104, 91.

reactant | (3-bromo-3,3-difluoro-prop-1-ynyl)-triisopropyl-silane | 0.5 mmol, 156 mg | BrC(C#C[Si](C(C)C)(C(C)C)C(C)C)(F)F | C12H21BrF2Si
reactant | hexanal | 0.6 mmol, 60 mg | C(CCCCC)=O | C6H12O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | TBAF | 1M, 0.75 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
product | 1-bromo-1,1-difluoro-non-2-yn-4-ol | 82 mg, 65% | BrC(C#CC(CCCCC)O)(F)F | C9H13BrF2O
